US09024041B2
To a suspension of 4-amino-2-chlorobenzoic acid (3.00 g, 17.5 mmol) in hydrochloric acid (1.0 M, 30 mL) at 0° C. was added a solution of sodium nitrite (1.24 g, 18.0 mmol) in water (5.0 mL) over 5 min and the reaction mixture maintained at 0° C. for 5 hr. The resulting mixture was treated with tin(II) chloride (9.28 g, 49.0 mmol) in hydrochloric acid (1.0 M, 60 mL) and was warmed to RT for 64 hr. The resulting thick precipitate which formed was isolated by filtration, washed with ethanol (16 mL) and ether (15 mL) and was dried in vacuo to afford 2-chloro-4-hydrazinylbenzoic acid hydrochloride as a beige solid (3.54 g, 90% purity, 82%); Rt 0.22 min (Method 2); m/z 187 (M+H)+, (ES+). This material was used in the subsequent step without further purification.

reactant | 4-amino-2-chlorobenzoic acid | 17.5 mmol, 3.00 g | NC1=CC(=C(C(=O)O)C=C1)Cl | C7H6ClNO2
reactant | sodium nitrite | 18.0 mmol, 1.24 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride | 49.0 mmol, 9.28 g | [Sn](Cl)Cl
solvent | hydrochloric acid | 1.0 M, 30 mL | Cl | ClH
solvent | water | 5.0 mL | O | H2O
solvent | hydrochloric acid | 1.0 M, 60 mL | Cl | ClH
product | 2-chloro-4-hydrazinylbenzoic acid hydrochloride | Cl.ClC1=C(C(=O)O)C=CC(=C1)NN | InChI=1S/C7H7ClN2O2.ClH/c8-6-3-4(10-9)1-2-5(6)7(11)12;/h1-3,10H,9H2,(H,11,12);1H
